US05348769
Preparation of N-allyl perfluoro-1-octanesulfonamide
Allyl amine (45.0 milliliters, 3.0 molar equivalent) and isopropyl ether (200.0 milliliters) were charged into a 3-neck 500-milliliter round bottom flask equipped with a Claisen joint adapter, dropping funnel and overhead mechanical stirrer at room temperature under a nitrogen blanket. The Claisen joint adapter was attached to a Thermowatch® thermometer adapter and water cooled condenser (to the nitrogen inlet). The mixture was warmed to 25° C. with stirring. Perfluoro-1-octanesulfonyl fluoride (100.0 grams, 1.0 molar equivalent, Aldrich Chemical Co.) was added by the dropping funnel over 1.5 hours. The reaction mixture was maintained at about 25° C. by immersing the reaction flask in a room temperature water bath. After the addition was completed, the reaction mixture was heated for 2 hours at 30° C., followed by 2 hours at 40° C. Upon cooling to 30° C. using a water bath, 120 milliliters of a 9% aqueous hydrochloric acid solution was added over 15 minutes while maintaining the temperature at 25° C. After separation of the layers in a separatory funnel, the organic layer was washed with an aqueous 4.5% hydrochloric acid 4.0% ferrous sulfate solution. The organic phase was isolated and evaporated in vacuo, further dried under vacuum (0.1 millimeters Hg) in a water bath at 70° C. for 0.5 hours to give a red pasty solid. The crude reaction product was subjected to high vacuum distillation to give a slightly yellow solid (boiling point 98° C.) (0.1 millimeters Hg)(85.62 grams, 80% purified yield).

reactant | Allyl amine | 3.0 molar, 45.0 milliliters | C(C=C)N | C3H7N
reactant | isopropyl ether | 200.0 milliliters | C(C)(C)OC(C)C | C6H14O
reactant | Perfluoro-1-octanesulfonyl fluoride | 1.0 molar, 100.0 grams | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-allyl perfluoro-1-octanesulfonamide | 85.62 grams, 80% | C(C=C)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C11H6F17NO2S
